US05679696
A solution of methyl 3-cyclopentyloxy-4-(methylthio)benzoate (24.3 g, 91.4 mmol) in water (200 mL) and ethanol (50 mL) containing sodium hydroxide (18.3 g, 460 mmol) is heated under reflux for 3 hours. The solution is then poured into water (750 mL) and 1N acetic acid is added dropwise with stirring to between pH 5-6. The solid which separates is collected by filtration, washed with water (4×100 mL) and dried giving 3-cyclopentyloxy-4-(methylthio)benzoic acid (21.1 g, 91.7%) as a cream solid m.p. 158°-160° C. [Elemental analysis: C,61.5; H,6.31%; calculated: C,61.88; H,6 39%].

reactant | methyl 3-cyclopentyloxy-4-(methylthio)benzoate | 91.4 mmol, 24.3 g | C1(CCCC1)OC=1C=C(C(=O)OC)C=CC1SC | C14H18O3S
reactant | sodium hydroxide | 460 mmol, 18.3 g | [OH-].[Na+]
reactant | acetic acid | 1N | C(C)(=O)O | C2H4O2
solvent | water | 200 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 750 mL | O | H2O
product | 3-cyclopentyloxy-4-(methylthio)benzoic acid | 21.1 g, 91.7% | C1(CCCC1)OC=1C=C(C(=O)O)C=CC1SC | C13H16O3S
